US07220862B2
(2-Amino-benzyl)-(1-benzyl-piperidin-4-yl)-amine
(1-Benzyl-piperidin-4-yl)-(2-nitro-benzyl)-amine (1.2 g, 3.7 mmol) and zinc dust (1 g, excess) were combined in 75% aqueous acetic acid (16 mL) and stirred at 60° C. for 2 h. After cooling to room temperature, the solvents were removed in vacuo and the resultant crude dissolved in water (10 mL), followed by addition of ammonium hydroxide until pH 3 was attained. The solution was extracted with methylene chloride (3×). The organic layers were pooled together washed with water (2×), brine (2×), dried over sodium sulfate, filtered, and concentrated to afford 0.8 g (73%) of the desired product. 1H-NMR (CD3OD) δ 2.50 (m, 2H), 3.20 (m, 2H), 3.49 (dd, J=7.0, 7.3, 1H), 3.62 (m, 4H), 4.20 (s, 2H), 4.36 (s, 2H), 7.04 (m, 2H), 7.32 (dd, J=7.3, 7.6, 1H), 7.41 (d, J=7.9, 1H), 7.50 (m, 5H). Mass spec.: 296.40 (MH)+.

reactant | (1-Benzyl-piperidin-4-yl)-(2-nitro-benzyl)-amine | 3.7 mmol, 1.2 g | C(C1=CC=CC=C1)N1CCC(CC1)NCC1=C(C=CC=C1)[N+](=O)[O-] | C19H23N3O2
solvent | acetic acid | 16 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 1 g | [Zn] | Zn
product | (2-Amino-benzyl)-(1-benzyl-piperidin-4-yl)-amine | 0.8 g, 73% | NC1=C(CNC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1 | C19H25N3
